US05082974
First, a mixture of 110 g (0.51 mole) of 4-methylsulfonylphenylacetic acid and 110 ml (1.51 moles) of thionyl chloride was heated at 90° C. for 2 hours. After completion of the reaction, an excess of thionyl chloride was distilled off under reduced pressure, giving about 120 g of 4-methylsulfonylphenylacetyl chloride as a light brown solid. The solid thus obtained was subjected to the subsequent reaction without isolation and purification.

reactant | 4-methylsulfonylphenylacetic acid | 0.51 mole, 110 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | thionyl chloride | 1.51 moles, 110 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-methylsulfonylphenylacetyl chloride | about 120 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)Cl | C9H9ClO3S
